US05834486
1-Propyl-9-[2-(2-piperidyl)-ethyl]-1,5,9-triazanonane tetrahydrochloride
30 ml of 3N methanolic hydrochloric acid are added to a solution of 2.07 g (3.54 mmol) of 1-propyl-9-[2-(2-piperidyl)-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane in 5 ml of methanol, and the reaction mixture is stirred at room temperature for 15 hours. The crystallisate is filtered off and the filtration residue is suspended in 15 ml of hot methanol. After cooling to room temperature, filtration, washing the crystallizate with ice-cold methanol and drying under a high vacuum at 100° C., the title compound is obtained, m.p. >270° C. 1H-NMR (D2O): δ =0.92(t,3H); 1.41-2.18(m,14H); 2.90-3.42(m,15H).

reactant | hydrochloric acid | 3N, 30 ml | Cl | ClH
reactant | 1-propyl-9-[2-(2-piperidyl)-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane | 3.54 mmol, 2.07 g | C(CC)N(CCCN(CCCN(C(=O)OC(C)(C)C)CCC1NCCCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C31H60N4O6
solvent | methanol | 5 ml | CO | CH4O
product | 1-Propyl-9-[2-(2-piperidyl)-ethyl]-1,5,9-triazanonane tetrahydrochloride | Cl.Cl.Cl.Cl.C(CC)NCCCNCCCNCCC1NCCCC1 | InChI=1S/C16H36N4.4ClH/c1-2-9-17-10-5-11-18-12-6-13-19-15-8-16-7-3-4-14-20-16;;;;/h16-20H,2-15H2,1H3;4*1H
